US04375475
Preparation of 6-[2-(2-acetoxy-4,6-dichlorophenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one.
Acetyl chloride (0.08 ml, 1.05 mmole) was added dropwise to a stirred solution of 6-[2-(2,4-dichloro-6-hydroxyphenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one (300 mg, 1 mmole) and pyridine (0.09 ml, 1.05 mmole) in ether (10 ml) at 0° C. The ice bath was removed and the reaction mixture was stirred at 20° C. for 1 hour and then diluted with H2O (10 ml). The organic layer was separated and washed with 1 N HCl (10 ml), H2O (2×10 ml) and brine, dried over MgSO4, filtered and evaporated to provide the title compound.

reactant | Acetyl chloride | 1.05 mmole, 0.08 ml | C(C)(=O)Cl | C2H3ClO
reactant | 6-[2-(2,4-dichloro-6-hydroxyphenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | 1 mmole, 300 mg | ClC1=C(C(=CC(=C1)Cl)O)CCC1CC(CC(O1)=O)O | C13H14Cl2O4
reactant | pyridine | 1.05 mmole, 0.09 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 10 ml | CCOCC | C4H10O
product | 6-[2-(2-acetoxy-4,6-dichlorophenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | C(C)(=O)OC1=C(C(=CC(=C1)Cl)Cl)CCC1CC(CC(O1)=O)O | C15H16Cl2O5
